US05446189
Using this procedure, the reaction of 4-nitrocatechol with octadecyl isocyanate gave 3,4-bis [[(octadecylamino)carbonyl]oxy]nitrobenzene (mp 117°-121°). The structure was confirmed by the nmr spectrum.

reactant | 4-nitrocatechol | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | octadecyl isocyanate | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
product | 3,4-bis [[(octadecylamino)carbonyl]oxy]nitrobenzene | C(CCCCCCCCCCCCCCCCC)NC(=O)OC=1C=C(C=CC1OC(=O)NCCCCCCCCCCCCCCCCCC)[N+](=O)[O-] | C44H79N3O6
